US07498460B2
Methyl 4-(3-{4-[3-(4-chlorophenyl)propoxy]phenyl}propoxy)-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate is prepared in analogy to the process described in Example 34 from methyl 4-[3-(4-hydroxyphenyl)propoxy]-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate and 1-(3-bromopropyl)-4-chlorobenzene.

reactant | methyl 4-[3-(4-hydroxyphenyl)propoxy]-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate | OC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OC)C=C1)C(=O)NC1CC(CCC1)C(=O)OC | C26H31NO7
reactant | 1-(3-bromopropyl)-4-chlorobenzene | BrCCCC1=CC=C(C=C1)Cl | C9H10BrCl
product | Methyl 4-(3-{4-[3-(4-chlorophenyl)propoxy]phenyl}propoxy)-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate | ClC1=CC=C(C=C1)CCCOC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OC)C=C1)C(=O)NC1CC(CCC1)C(=O)OC | C35H40ClNO7
